US05114966
5.7 ml of diisopropyl azodicarboxylate is added, dropwise, to a mixture of 6.0 g of 2-(RS)-(2-hydroxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane cold to 0° C., 7.6 g of triphenylphosphine and 3.1 g of phthalimide in 35 ml of anhydrous tetrahydrofurane. After these additions, the mixture is brought to room temperature and stirred for 2 hours. After the solvent has been evaporated, the residue is purified with chromatography column (SiO2), which produces 8.0 g of N-[2-(2,3-dihydro-5-benzyloxy-4,6,7-trimethyl-2-benzofuranyl)ethyl]phthalimide m.p. 108°-110° C.: IR(KBr): 1772, 1716 cm-1 (νO=CNC=O). The phthalimide thus obtained is solubilized in a mixture of 50 ml of tetrahydrofurane and 20 ml of absolute ethanol. 3.2 ml of hydrated hydrazine are added dropwise and the mixture is kept under reflux with stirring for 2 hours. After the mixture has been brought to room temperature the formed phthalhydrazine is filtered out, and the filtrate is concentrated to a volume of about 20 ml. The additional phthalhydrazine which forms is filtered out. After the solvent is evaporated from the filtrate, the residue is treated with ethylic ether saturated with HCL to obtain the precipitate of the hydrochloride of the product. The precipitate is filtered under a vacuum, which gives 4.0 g of a white solid. m.p. 192°-193° C.; IR (KBr): 3032 cm-1 (νNH3 +); 1H-NMR (CD3OD): δ7.5-7.2 (5H,m), 4.7 (2H,s), 3.4-2.7 (4H,m), 2.4-2.2 (2H,m), 2.2 (6H,s), 2.1 (3H,s).

reactant | diisopropyl azodicarboxylate | 5.7 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-(RS)-(2-hydroxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane | 6.0 g | OCCC1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C | C20H24O3
reactant | triphenylphosphine | 7.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3.1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | tetrahydrofurane | 35 ml | O1CCCC1 | C4H8O
product | N-[2-(2,3-dihydro-5-benzyloxy-4,6,7-trimethyl-2-benzofuranyl)ethyl]phthalimide | 8.0 g | C(C1=CC=CC=C1)OC=1C(=C(C2=C(CC(O2)CCN2C(C=3C(C2=O)=CC=CC3)=O)C1C)C)C | C28H27NO4
